US05270311
A solution of 7-amino-2-(2-furyl)-5-methylsulphonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazine (1.6 g) in ethanol (40 ml) containing DBU (1.0 ml) was heated under reflux until no starting material remained by TLC analysis. The solvent was removed by evaporation and the residue purified by chromatography on silica using 5-10% v/v ethyl acetate in dichloromethane as eluant, followed by crystallisation from ethanol to give 7-amino-5-ethoxy-2-(2-furyl)-[1,2,4]triazolo[1,5-a][1,3,5]triazine as hygroscopic crystals, m.p. 211°-213° C.; microanalysis, found: C, 48.7; H, 4.5; N, 31.4; H2O, 1.2%; C10H10N6O2.0.33C2H5OH. 0.165H2O requires: C, 48.4; H, 4.7; N, 31.8; H2O, 1.1%; NMR: 1.05(t, 1H, CH3CH2OH), 1.35(t, 3H, CH3CH2), 3.4(q, CH3CH2OH), 4.3(q, 2H, CH3CH2O--), 6.7(dd, 1H, furyl-4H), 7.1(d, 1H, furyl-3H), 7.9(d, 1H, furyl-5H), 8.5-9.0(d, 2H, NH2); m/e 246 (M+).

reactant | 7-amino-2-(2-furyl)-5-methylsulphonyl-[1,2,4]triazolo[1,5-a][1,3,5]triazine | 1.6 g | NC1=NC(=NC=2N1N=C(N2)C=2OC=CC2)S(=O)(=O)C | C9H8N6O3S
reactant | DBU | 1.0 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | 7-amino-5-ethoxy-2-(2-furyl)-[1,2,4]triazolo[1,5-a][1,3,5]triazine | NC1=NC(=NC=2N1N=C(N2)C=2OC=CC2)OCC | C10H10N6O2
